Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
lithium / bee venom protein (honey bee) / Neurontin
 
Attending: ___.
 
Chief Complaint:
Dyspnea on exertion
 
Major Surgical or Invasive Procedure:
___: Aortic valve replacement 21 mm ___ 
___ mechanical valve.

 
History of Present Illness:
Ms ___ is a very nice ___ year old woman who has lived in 
Respite in ___ for ___ months. She has a history of 
anxiety, aortic stenosis, bicuspid aortic valve, bipolar 
disorder, depression, and schizophrenia. She has been followed 
with serial echocardiograms. Her most recent echocardiogram 
demonstrated severe aortic stenosis with peak and mean aortic 
gradients of 75 mmHg and 56 mmHg, respectively. The aortic valve 
area was 0.6 cm2. She recently underwent a chest CT which 
revealed tiny calcified granuloma in the right lower lobe 
without definite ascending aorta dilatation. She was seen in the 
cardiac surgery clinic by Dr. ___ was 
recommended. The patient agreed to surgery. She also agreed to 
proceed with a cardiac cath to r/o CAD prior to cardiac surgery. 
 She is underwent cardiac cath today which revealed clean 
coronaries. She is admitted post cath today with plans for ___ 
in am. Valve type undecided but given psych history, a tissue 
valve would be best. 

She has noted no change in her dyspnea on exertion. She has no 
___ edema, denies syncope, lightheadedness, shortness of breath 
at rest, chest pain, palpitations, orthopnea, or paroxysmal 
nocturnal dyspnea. She reports her last cigarette was 13 days 
ago and she "did the best" she could.
 
Past Medical History:
Alcoholism, in remission
Anxiety
Aortic Stenosis
Bicuspid Aortic Valve
Bipolar Disorder
Depression
Hyperlipidemia
Hypertension 
Schizophrenia 
Hyponatremia from psych meds
Abd hernia repair x3
 
Social History:
___
Family History:
Brother - committed suicide. 
Mother - died of cirrhosis at age ___. 
Father - had MI at ___, died at age ___.
 
Physical Exam:
Admit exam:

BP: 111/78. HR: 65. O2 Sat%: 96. RR: 18. Pain Score: 0. 
Height: 64"  Weight: 186 lbs 

General: Unkempt, very pleasant and cooperative woman, affect 
somewhat blunted, NAD
Skin: Warm, dry, with abrasion over left shoulder.
HEENT: Right pupil >left pupil but both reactive. Upper and 
lower dentures
Neck: Supple, full ROM
Chest: Lungs clear bilaterally
Heart: Regular rate and rhythm, III/VI SEM heard across the 
precordium but best at LUSB
Abdomen: Midline abd incision from previous hernia repair, 
obese, normal BS, soft, non-tender, non-distended  
Extremities: Warm, well-perfused; no edema 
Varicosities: None 
Neuro: Grossly intact  
Pulses:
DP           Right: 1+  Left: 1+
___           Right: 1+  Left: 1+
Radial       Right: cath site; no hematoma  Left: 2+
Carotid Bruit: transmitted murmur vs. bruit
======================================================
Discharge Exam: 
98.3
PO 125 / 95 107 20 96 Ra 
.
Physical Examination:
General: NAD [x]  
Neurological: A/O x3 [x] non-focal [x] 
HEENT:  PERRL [] 
Cardiovascular: RRR [x]  Irregular []  Murmur [] Rub [] 
Respiratory: CTA [x]  No resp distress [x]
GI/Abdomen: Bowel sounds present [x] Soft [x] ND [x] NT [x]
Extremities: 
Right Upper extremity   Warm [x]  Edema  
Left Upper extremity    Warm [x]  Edema 
Right Lower extremity   Warm [x]  Edema trace
Left Lower extremity    Warm [x]  Edema trace
Pulses:
DP             Right: +      Left:+
___             Right:       Left:
Radial         Right:       Left:
Skin/Wounds: Dry [x] intact [x]
Sternal: CDI [x] no erythema or drainage [x]
                 Sternum stable [x] Prevena []

 
Pertinent Results:
___ 12:16PM BLOOD WBC-11.7* RBC-4.11 Hgb-14.2 Hct-41.8 
MCV-102* MCH-34.5* MCHC-34.0 RDW-13.6 RDWSD-50.8* Plt ___
___ 12:16PM BLOOD ___ PTT-150* ___
___ 12:16PM BLOOD Glucose-114* UreaN-10 Creat-0.5 Na-136 
K-4.2 Cl-94* HCO3-30 AnGap-12
___ 12:16PM BLOOD ALT-8 AST-10 AlkPhos-61 Amylase-25 
TotBili-0.4
___ 12:16PM BLOOD Lipase-17
___ 12:16PM BLOOD Albumin-3.8 Mg-1.9
___ 12:16PM BLOOD %HbA1c-6.7* eAG-146*

Cardiac Catheterization ___
left dominant.
LMCA: normal
LAD: normal
LCx: normal
RCA: normal
.
Intra-op TEE ___
FINDINGS:
ADDITIONAL FINDINGS: ___ 15:35. TEE not feasible without 
conscious sedation. Risks,
benefits and alternatives were discussed and. With rhythm, blood 
pressure and oxygen saturation
monitors, constant nursing observation, and direct attending 
supervision, the patient received an
appropriate level of sedation (see medication list above). The 
attending was at the bedside continuously
for 0.0 min during sedation. The patient was subsequently 
observed with serial examinations until the
return of their gag reflex and presedation mental status.
EMR 2853-P-IP-OP (O___) Name: ___ MRN: ___ 
Study Date: ___ 7:35:00 p. ___
PRE-OPERATIVE STATE: Pre-bypass assessment.
Preop Comments: There is a biciuspid aortic valve Ther is severe 
aortic stenosis.There is no aortic
regurgitation the biventricular function is normal No regional 
wall motion abnormality is seen There is
mild tricuspid regurgitation The ascending aorta is normal in 
diameter The descending aorta is normal
Left Atrium (LA)/Pulmonary Veins: Normal LA size.
Right Atrium (RA)/Interatrial Septum/Inferior Vena Cava (IVC): 
Normal interatrial septum.
Left Ventricle (LV): Moderate symmetric hypertrophy. Normal 
cavity size. Normal regional & global
systolic function
Right Ventricle (RV): Normal cavity size. Normal free wall 
motion.
Aorta: Normal sinus diameter. Normal ascending diameter. Normal 
arch diameter. Normal descending
aorta diameter.
Aortic Valve: BIcuspid with thin/mobile leaflets. SEVERE (less 
than 0.6cm2/m2) stenosis. No
regurgitation.
Mitral Valve: Normal leaflets. Minimal leaflet calcification. No 
stenosis. Mild annular calcification.
Trace regurgitation. Central jet.
Tricuspid Valve: Normal leaflets. Trace regurgitation.
Pericardium: No effusion.
POST-OP STATE: The post-bypass TEE was performed at 24:00:00. 
Atrial paced rhythm.
Post-op Comments post Bypass Phenylephrine gtt biventricular 
function is preserved the
mechanicakl aortic valve is well seated. Washing jets are 
visble. The transvalvular gradients are
normal The mitral regurgittaion is now mild the rest of the exam 
is unchanged
Support: Vasopressor(s): none.
Left Ventricle: Similar to preoperative findings.
Right Ventricle: No change in systolic function.
Aorta: Intact. No dissection.
Aortic Valve: Bioprosthetic valve. Well seated prosthesis. 
Normal leaflet motion. No regurgitation.
Mitral Valve: No change in mitral valve morphology from 
preoperative state. No change in
valvular regurgitation from preoperative state.
Tricuspid Valve: No change in tricuspid valve morphology vs. 
preoperative state.
Pericardium: No effusion.
Notification: The surgeon/proceduralist was notified of the 
findings at the time of the study.

Discharge Labs

___ 04:36AM BLOOD WBC-12.3* RBC-3.43* Hgb-11.4 Hct-35.8 
MCV-104* MCH-33.2* MCHC-31.8* RDW-14.1 RDWSD-53.5* Plt ___
___ 04:44AM BLOOD WBC-15.4* RBC-3.37* Hgb-11.2 Hct-34.8 
MCV-103* MCH-33.2* MCHC-32.2 RDW-14.5 RDWSD-54.4* Plt ___
___ 11:15AM BLOOD WBC-16.1* RBC-3.53* Hgb-11.9 Hct-35.9 
MCV-102* MCH-33.7* MCHC-33.1 RDW-13.6 RDWSD-50.6* Plt ___
___ 06:00PM BLOOD ___
___ 05:57AM BLOOD ___ PTT-106.5* ___
___ 05:05AM BLOOD ___ PTT-86.3* ___
___ 04:48AM BLOOD ___ PTT-51.8* ___
___ 05:19PM BLOOD ___ PTT-67.2* ___
___ 04:44AM BLOOD ___ PTT-71.0* ___
___ 05:30AM BLOOD ___ PTT-150* ___
___ 04:36AM BLOOD Glucose-128* UreaN-11 Creat-0.5 Na-138 
K-4.7 Cl-97 HCO3-30 AnGap-11
___ 04:44AM BLOOD Glucose-123* UreaN-10 Creat-0.6 Na-142 
K-4.9 Cl-96 HCO3-30 AnGap-16
___ 01:15AM BLOOD ALT-10 AST-21 AlkPhos-44 TotBili-0.3
___ 04:36AM BLOOD Mg-2.1
 
Brief Hospital Course:
She was admitted and underwent cardiac cath today which revealed 
clean coronaries. The remainder of her preoperative evaluation 
was unremarkable and she was cleared for surgery. On ___, Dr. ___ an aortic valve replacement. For 
surgical details, please see operative note. Overall the patient 
tolerated the procedure well and post-operatively was 
transferred to the CVICU in stable condition for recovery and 
invasive monitoring. POD 1 found the patient extubated, alert 
and oriented and breathing comfortably.  The patient was 
neurologically intact and hemodynamically stable.  Beta blocker 
was initiated and the patient was gently diuresed toward the 
preoperative weight. 
She developed CHB and EP consulted. Planned for PPM- just prior, 
pt returned to ___.  Coumadin initiated and INR rose quickly. INR 
was allowed to trend down and heparin initiated.
The patient was transferred to the telemetry floor for further 
recovery. Chest tubes and pacing wires were discontinued without 
complication. EP continued to follow. EP study performed on ___ 
and revealed no need for PPM. She was continued on Coumadin with 
Heparin bridge until INR >2.0. 
The patient was evaluated by the Physical Therapy service for 
assistance with strength and mobility. By the time of discharge 
on POD 14 the patient was ambulating freely, the wound was 
healing and pain was controlled with oral analgesics.  The 
patient was discharged back to her group home with ___ services 
in good condition with appropriate follow up instructions. 
Per psych, she was taking oral naltrexone 50 mg PO daily (per 
group home records), rather than the higher dose long-acting 
formulation, Vivitrol. Regarding reinitiation, if it is thought 
that it is unlikely she'll need any opioids in the short term, 
it is reasonable to reintroduce oral naltrexone 50 mg PO daily 
in anticipation of the transition of care. If there is any 
possibility she may need opioids for acute pain control, would 
hold off and defer to outpatient prescriber after discharge.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. CARVedilol 12.5 mg PO BID 
3. ProAir RespiClick (albuterol sulfate) 90 mcg/actuation 
inhalation Q6H:PRN wheezing 
4. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
5. Benztropine Mesylate 1 mg PO DAILY 
6. Divalproex (DELayed Release) 750 mg PO BID 
7. FoLIC Acid 1 mg PO DAILY 
8. Furosemide 40 mg PO EVERY OTHER DAY 
9. Haloperidol 10 mg PO BID 
10. OLANZapine 15 mg PO BID 
11. PARoxetine 10 mg PO DAILY 
12. Aspirin 81 mg PO DAILY 
13. Ferrous Sulfate 325 mg PO DAILY 
14. Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
15. Multivitamins 1 TAB PO DAILY 
16. Cyanocobalamin 100 mcg PO DAILY 
17. Naltrexone 50 mg PO QHS 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every six (6) 
hours Disp #*100 Tablet Refills:*0 
2.  Nicotine Patch 14 mg/day TD DAILY 
RX *nicotine 14 mg/24 hour 1 patch once a day Disp #*14 Patch 
Refills:*0
RX *nicotine 7 mg/24 hour 1 patch once a day Disp #*14 Patch 
Refills:*0 
3.  Omeprazole 40 mg PO DAILY 
RX *omeprazole 40 mg 1 patch by mouth once a day Disp #*30 
Capsule Refills:*1 
4.  Warfarin 2 mg PO DAILY16 
dose to change daily per PCP for goal INR ___, dx: mechanical 
___ 
RX *warfarin 2 mg ___ tablet(s) by mouth once a day Disp #*90 
Tablet Refills:*1 
5.  Furosemide 40 mg PO DAILY 
40mg daily x 7 days, then resume every other day dosing. 
RX *furosemide 40 mg 1 tablet(s) by mouth once a day Disp #*20 
Tablet Refills:*1 
6.  Aspirin 81 mg PO DAILY  
7.  Atorvastatin 40 mg PO QPM  
8.  Benztropine Mesylate 1 mg PO DAILY  
9.  Cyanocobalamin 100 mcg PO DAILY  
10.  Divalproex (DELayed Release) 750 mg PO BID  
11.  Ferrous Sulfate 325 mg PO DAILY  
12.  FoLIC Acid 1 mg PO DAILY  
13.  Haloperidol 10 mg PO BID  
14.  Multivitamins 1 TAB PO DAILY  
15.  Naltrexone 50 mg PO QHS  
16.  OLANZapine 15 mg PO BID  
17.  PARoxetine 10 mg PO DAILY  
18.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line  
19.  ProAir RespiClick (albuterol sulfate) 90 mcg/actuation 
inhalation Q6H:PRN wheezing  
20.  Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Aortic Stenosis, Bicuspid Aortic Valve
Alcoholism, in remission
Anxiety
Bipolar Disorder
Depression
Hyperlipidemia
Hypertension 
Schizophrenia 
Hyponatremia from psych meds

 
Discharge Condition:
Alert and oriented x3, non-focal
Ambulating, gait steady
Sternal pain managed with oral analgesics
Sternal Incision - healing well, no erythema or drainage
Edema- trace

 
Discharge Instructions:
Please shower daily -wash incisions gently with mild soap, no 
baths or swimming, look at your incisions daily
Please - NO lotion, cream, powder or ointment to incisions
Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart
No driving for approximately one month and while taking 
narcotics
Clearance to drive will be discussed at follow up appointment 
with surgeon
No lifting more than 10 pounds for 10 weeks
Encourage full shoulder range of motion, unless otherwise 
specified
**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**
Females: Please wear bra to reduce pulling on incision, avoid 
rubbing on lower edge
 
Followup Instructions:
___